US07151105B2
Step 5: 4-Bromo-2,6-bis-(2,2,2-trifluoro-ethyl)-pyridine
A solution of 4-bromo-2,6-bis-(2,2,2-trifluoro-ethyl)-pyridine 1-oxide (2.1 g, 6.2 mmol) and PBr3 (1 mL) in CH2Cl2 (15 mL) was stirred at room temperature for 4 hours. The reaction mixture was poured into ice, made basic with 15% NaOH and extracted with EtOAc. The organic layers were washed with brine, dried over Na2SO4 and concentrated to a pale yellow solid (1.77 g, 89%). 1H NMR (400 MHz, CDCl3): δ 3.59 (t, J=10.4 Hz, 4 H), 7.51 (s, 2 H).

reactant | 4-bromo-2,6-bis-(2,2,2-trifluoro-ethyl)-pyridine 1-oxide | 6.2 mmol, 2.1 g | BrC1=CC(=[N+](C(=C1)CC(F)(F)F)[O-])CC(F)(F)F | C9H6BrF6NO
reactant | PBr3 | 1 mL | P(Br)(Br)Br | Br3P
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-2,6-bis-(2,2,2-trifluoro-ethyl)-pyridine | BrC1=CC(=NC(=C1)CC(F)(F)F)CC(F)(F)F | C9H6BrF6N
